US08802697B2
Synthesis of 5-bromo-N-(2-methyl-6-nitrophenyl)pyrimidin-2-amine
To a solution of 5-bromo-2-chloropyrimidine (1.5 g, 7.89 mmol) and 2-methyl-6-nitroaniline (800 mg, 5.26 mmol) in N,N-dimethylformamide (10 mL) in a sealed tube was added potassium tert-butoxide (1.76 g, 15.78 mmol), and the mixture was heated under microwave at 130° C. for 2 hrs. LCMS showed the reaction was completed. The reaction was cooled to RT, quenched with water (20 mL) and extracted with ethyl acetate (3×100 mL). The organic layers were separated, combined, washed with water (50 mL) and brine (100 mL), dried over sodium sulfate, filtered, and concentrated. The residue was purified by silica gel chromatography (petroleum ether:ethyl acetate=10:1) to afford the title compound as a yellow solid (500 mg, 31%). MS (ES+) C11H9BrN4O2 requires: 309, 311. found: 310, 312 [M+H]+.

reactant | 5-bromo-2-chloropyrimidine | 7.89 mmol, 1.5 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | 2-methyl-6-nitroaniline | 5.26 mmol, 800 mg | CC1=C(N)C(=CC=C1)[N+](=O)[O-] | C7H8N2O2
reactant | potassium tert-butoxide | 15.78 mmol, 1.76 g | CC(C)([O-])C.[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 5-bromo-N-(2-methyl-6-nitrophenyl)pyrimidin-2-amine | 500 mg, 31% | BrC=1C=NC(=NC1)NC1=C(C=CC=C1[N+](=O)[O-])C | C11H9BrN4O2
